US04016161
3-dimethylamino-11-methyl-1,3,4,14b-tetrahydro-2H-pyridino [1,2-d]-dibenzo[ b,f](1,4)-oxazepine;
Rf in methanol:acetone (8:2) = 0.20 (equatorial). 3-dimethylamino-7-trifluoromethyl-1,3,4,14b-tetrahydro-2H-pyridino[ 1,2-d]-dibenzo[b,f](1,4)-thiazepine:

reactant | 3-dimethylamino-7-trifluoromethyl-1,3,4,14b-tetrahydro-2H-pyridino[ 1,2-d]-dibenzo[b,f](1,4)-thiazepine | CN(C1CCC2N(C3=C(SC4=C2C=CC=C4)C=CC(=C3)C(F)(F)F)C1)C | C20H21F3N2S
reactant | methanol acetone | CO.CC(=O)C
product | 3-dimethylamino-11-methyl-1,3,4,14b-tetrahydro-2H-pyridino [1,2-d]-dibenzo[ b,f](1,4)-oxazepine | CN(C1CCC2N(C3=C(OC4=C2C=CC=C4C)C=CC=C3)C1)C | C20H24N2O
